US04297347
Cytidine-3'-diphosphate was prepared by repeating the procedure of Example 1 except that guanosine-3'-monophosphate was replaced by cytidine-3'-monophosphate.

reactant | guanosine-3'-monophosphate | P(=O)(O)(O)O[C@H]1[C@H]([C@@H](O[C@@H]1CO)N1C=NC=2C(=O)NC(N)=NC12)O | C10H14N5O8P
reactant | cytidine-3'-monophosphate | P(=O)(O)(O)O[C@H]1[C@H]([C@@H](O[C@@H]1CO)N1C(=O)N=C(N)C=C1)O | C9H14N3O8P
product | Cytidine-3'-diphosphate | P(O)(=O)(OP(=O)(O)O)O[C@H]1[C@H]([C@@H](O[C@@H]1CO)N1C(=O)N=C(N)C=C1)O | C9H15N3O11P2
